* source CIRCUITO 13 INVERSA
V_V1         N00126 0  
+SIN 0 311 50 0 0 0
L_L1         N00126 N00133  4m  
D_D1         N00133 N00137 Dbreak 
D_D2         0 N00137 Dbreak 
I_I1         N00137 0 DC 100A  
