* source CIRCUITO 11 INVERSO
V_V1         N00148 N00225  
+SIN 0 311 50 0 0 0
V_V2         N00148 N00229  
+SIN 0 311 50 0 0 120
V_V3         N00148 N00233  
+SIN 0 311 50 0 0 -120
L_L1         N00225 N00397  1m  
L_L2         N00229 N00401  1m  
L_L3         N00233 N00382  1m  
D_D1         N00397 N00373 Dbreak 
D_D2         0 N00397 Dbreak 
D_D3         N00401 N00373 Dbreak 
D_D4         0 N00401 Dbreak 
D_D6         0 N00382 Dbreak 
D_D5         N00382 N00373 Dbreak 
I_I1         N00373 0 DC 50A  
