* source CIRCUITO 14
V_V1         N00251 N00642  
+SIN 0 311 50 0 0 -120
V_V2         N00251 N00660  
+SIN 0 311 50 0 0 0
V_V3         N00251 N00678  
+SIN 0 311 50 0 0 120
D_D1         N00407 N00365 Dbreak 
D_D2         N00399 N00365 Dbreak 
D_D3         N00374 N00365 Dbreak 
D_D4         0 N00399 Dbreak 
D_D5         0 N00374 Dbreak 
D_D6         0 N00407 Dbreak 
L_L1         N00642 N00646  0.2m  
L_L2         N00660 N00664  0.2m  
L_L3         N00678 N00682  0.2m  
R_R1         N00646 N00407  1m  
R_R2         N00664 N00399  1m  
R_R3         N00682 N00374  1m  
R_R4         N00855 N00848  20m  
C_C1         0 N00855  1u  
R_R5         0 N00848  20  
L_L4         N00365 N00848  0.5m  
